US05070089
In 28 ml of ethanol was dissolved 1.82 g (10 mmol.) of 2,3-dimethoxy-5-methyl-1,4-benzoquinone. To the solution was portionwise added at room temperature 240 mg (6.3 mmol.) of sodium borohydride. The mixture was stirred for 15 min. The mixture was then made acidic by addition of 3-N hydrochloric acid. To the mixture were added 50 ml of water and 100 ml of ether for performing extraction. The ether portion was washed with water and a saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, and placed under reduced pressure to distill off the solvent to give 1.72 g of 2,3-dimethoxy-5-methylhydroquinone as a yellow oil, yield 93.5%. To the resulting oil were added 1.65 g (9.3 mmol.) of methyl 1-piperazinecarbodithioate and 280 mg (9.3 mmol.) of paraformaldehyde. The mixture was added to 17 ml of chloroform, and the resulting mixture was refluxed under heating for 6 hours. To the heated mixture was added water. The aqueous mixture was then extracted with chloroform. The chloroform extract was washed with water and a saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, and placed under reduced pressure to distill off the solvent. The residue was dissolved in 10 ml of ethanol. Insolubles were removed by filtration. The filtrate was placed under reduced pressure to distill off ethanol. The residue was then purified by means of silica gel column, to give 1.1 g of a pale yellow oil, yield 31.8%. The oil was crystallized from ethanol. The crystals were collected by filtration to give 790 mg of the desired compound as a yellow crystalline product, m.p. 135°-136° C.

reactant | 2,3-dimethoxy-5-methyl-1,4-benzoquinone | 10 mmol, 1.82 g | COC=1C(C=C(C(C1OC)=O)C)=O | C9H10O4
reactant | sodium borohydride | 6.3 mmol, 240 mg | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | water | 50 ml | O | H2O
solvent | ethanol | 28 ml | C(C)O | C2H6O
solvent | ether | 100 ml | CCOCC | C4H10O
product | 2,3-dimethoxy-5-methylhydroquinone | 1.72 g, yield 93.5% | COC1=C(O)C=C(C(=C1OC)O)C | C9H12O4
